US07855211B2
6-Amino-3′,4′,5′,6′-tetrahydro-2′H-[3,4]bipyridinyl-1′-carboxylic acid tert-butyl ester
Dissolve 6-nitro-3′,6′-dihydro-2′H-[3,4]bipyridinyl-1′-carboxylic acid tert-butyl ester (1.89 g) in ethanol (123.80 mL). Hydrogenate with palladium on carbon (H-Cube instrument, 70 bar, 50° C., 1 mL/min) to afford 1.72 g of the title compound. MS (ES+): m/z=278 (M+H)+.

reactant | 6-nitro-3′,6′-dihydro-2′H-[3,4]bipyridinyl-1′-carboxylic acid tert-butyl ester | 1.89 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C=NC(=CC1)[N+](=O)[O-] | C15H19N3O4
solvent | ethanol | 123.80 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Amino-3′,4′,5′,6′-tetrahydro-2′H-[3,4]bipyridinyl-1′-carboxylic acid tert-butyl ester | 1.72 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C=NC(=CC1)N | C15H23N3O2
